US04284641
(c) Preparation of 1-(2-cyclooctenylmethyl)imidazole
2-Cyclooctenylmethyl bromide (0.7 g; 0.0035 mole) as just made was added dropwise to a refluxing solution of imidazole (0.24 g; 0.0025 mole) and potassium tertiary butoxide (0.39 g; 0.0035 mole) in dry butanol under nitrogen. After addition the mixture was stirred under reflux for 1 hour. Pure product was obtained as described in Example 4, b.p. 108°-110°/0.02 mmHg.

reactant | 2-Cyclooctenylmethyl bromide | 0.0035 mole, 0.7 g | C1(C=CCCCCC1)CBr | C9H15Br
reactant | imidazole | 0.0025 mole, 0.24 g | N1C=NC=C1 | C3H4N2
reactant | potassium tertiary butoxide | 0.0035 mole, 0.39 g | CC(C)([O-])C.[K+]
solvent | butanol | C(CCC)O | C4H10O
product | 1-(2-cyclooctenylmethyl)imidazole | C1(C=CCCCCC1)CN1C=NC=C1 | C12H18N2
